US05093370
1,4-Bis(5-triethylammoniopentylthio)benzene diiodide
First, 510 mg of 1,4-bis(5-diethylaminopentylthio)benzene was dissolved in 5 ml of absolute ethanol, and after adding 960 μl of ethyl iodide, the mixture was refluxed for 4 hours, then cooled and evaporated under a reduced pressure to remove the ethanol. After adding 5 ml of acetone, the mixture was stirred at a room temperature for 3 hours and allowed to stand in a freezer overnight. The resulting crystal was collected by filtration, washed with acetone and dried under a reduced pressure to obtain 519 mg of the title compound as a light gray crystal.

reactant | 1,4-bis(5-diethylaminopentylthio)benzene | 510 mg | C(C)N(CCCCCSC1=CC=C(C=C1)SCCCCCN(CC)CC)CC | C24H44N2S2
reactant | ethyl iodide | 960 μl | C(C)I | C2H5I
reactant | ethanol | 5 ml | C(C)O | C2H6O
product | 1,4-Bis(5-triethylammoniopentylthio)benzene diiodide | 519 mg | [I-].[I-].C(C)[N+](CCCCCSC1=CC=C(C=C1)SCCCCC[N+](CC)(CC)CC)(CC)CC | InChI=1S/C28H54N2S2.2HI/c1-7-29(8-2,9-3)23-15-13-17-25-31-27-19-21-28(22-20-27)32-26-18-14-16-24-30(10-4,11-5)12-6;;/h19-22H,7-18,23-26H2,1-6H3;2*1H/q+2;;/p-2
